US06762320B2
b) N-[4-(4-Chloro-benzyloxy)-phenyl]-malonamide
Prepared in analogy to example 8 from N-(4-hydroxy-phenyl)-malonamide and 4-chloro-benzylbromide. Colorless solid. Yield=18%. MS: m/e=319.1 (M++H).

reactant | N-(4-hydroxy-phenyl)-malonamide | OC1=CC=C(C=C1)NC(CC(=O)N)=O | C9H10N2O3
reactant | 4-chloro-benzylbromide | ClC1=CC=C(CBr)C=C1 | C7H6BrCl
product | N-[4-(4-Chloro-benzyloxy)-phenyl]-malonamide | Yield=18% | ClC1=CC=C(COC2=CC=C(C=C2)NC(CC(=O)N)=O)C=C1 | C16H15ClN2O3
